US04722929
(b) 8-(2-Methoxy-4-benzyloxy-phenyl)-2-benzyloxy-purine
An amount of 4.5 gm of powdered potassium hydroxide is dissolved in 70 ml of benzyl alcohol, and then 7.2 gm of 8-(2-methoxy-4-benzyloxy-phenyl)-2-chloro-purine are added. The mixture is heated to 150° C. for three hours, cooled, and filtered, the filtrate is mixed with ether, and the precipitate obtained is purified by chromatography on silica gel [eluant: methylene chloride/ethanol (100:2.5)].

reactant | potassium hydroxide | 4.5 gm | [OH-].[K+]
reactant | 8-(2-methoxy-4-benzyloxy-phenyl)-2-chloro-purine | 7.2 gm | COC1=C(C=CC(=C1)OCC1=CC=CC=C1)C1=NC2=NC(=NC=C2N1)Cl | C19H15ClN4O2
solvent | benzyl alcohol | 70 ml | C(C1=CC=CC=C1)O | C7H8O
product | 8-(2-Methoxy-4-benzyloxy-phenyl)-2-benzyloxy-purine | COC1=C(C=CC(=C1)OCC1=CC=CC=C1)C1=NC2=NC(=NC=C2N1)OCC1=CC=CC=C1 | C26H22N4O3
